US07030240B2
tert-butyl-4-(6-chloro-5-methylthieno[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate
The title compound was prepared (611 mg, 82%) from 4,6-dichloro-5-methylthieno[2,3-d]pyrimidine (425 mg, 1.94 m. mol) and tert-butyl 4-aminopiperidine-1-carboxylate (582 mg, 2.9 m. mol) by following the general procedure described for Preparation 9. 1H NMR (400 MHz, CDCl3): δ 8.40 (s, 1H), 5.25 (d, 1H), 4.35 (m, 1H), 4.30 (m, 2H), 3.00 (m, 2H), 2.55 (s, 3H), 2.15 (m, 2H), 1.45 (s, 9H), 1.35–1.55 (m, 2H).

reactant | 4,6-dichloro-5-methylthieno[2,3-d]pyrimidine | 425 mg | ClC=1C2=C(N=CN1)SC(=C2C)Cl | C7H4Cl2N2S
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 582 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-butyl-4-(6-chloro-5-methylthieno[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C2=C(N=CN1)SC(=C2C)Cl | C17H23ClN4O2S
